US05495022
3.6 g of 2-(2,3,4,5-tetrahydro-7-cyano-1-benzoxepin-5-yl)ethyl bromide [obtainable starting from 2,3,4,5-tetrahydro-7-cyano-1-benzoexpin-5-one [sic] by reaction with triphenylethylphosphinium bromide, subsequent bromination of the product in the allyl position and reduction of the isolated double bond with diisobutyl-aluminiumhydride (DIBAH)], 1 equivalent of 4-(3,4-dimethoxyphenyl)piperidine hydrochloride, 3.8 g of K2CO3 and 2.1 g of KI are dissolved in 120 ml of ethyl methyl ketone and the mixture is boiled for 3 hours. Customary working up gives 1-(2-(2,3,4,5-tetrahydro-7-cyano-1-benzoxepin-5-yl)ethyl)-4-(3,4-dimethoxyphenyl)piperidine.

reactant | 2-(2,3,4,5-tetrahydro-7-cyano-1-benzoxepin-5-yl)ethyl bromide | 3.6 g | C(#N)C=1C=CC2=C(C(CCCO2)CCBr)C1 | C13H14BrNO
reactant | diisobutyl-aluminiumhydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 4-(3,4-dimethoxyphenyl)piperidine hydrochloride | 1 equivalent | Cl.COC=1C=C(C=CC1OC)C1CCNCC1
reactant | K2CO3 | 3.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ethyl methyl ketone | 120 ml | CC(=O)CC | C4H8O
product | 1-(2-(2,3,4,5-tetrahydro-7-cyano-1-benzoxepin-5-yl)ethyl)-4-(3,4-dimethoxyphenyl)piperidine | C(#N)C=1C=CC2=C(C(CCCO2)CCN2CCC(CC2)C2=CC(=C(C=C2)OC)OC)C1 | C26H32N2O3
